US06921762B2
Preparation of 5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-8-(3-(trifluoromethyl)phenyl)-7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidine
A solution of 5-{7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidin-5-yl}-2-(tert-butoxycarbonyl)-(1R)-2,5-diaza-bicyclo[2.2.1]heptane (240 mg, 0.4 mmole) in ethyl acetate (5 mL) was treated with HCl-ether solution (1M, 4 mL) at room temperature. The suspension was stirred at room temperature for 5 minutes. The resulting precipitate was filtered, washed with ether and dried under vacuum to give the product as a light yellowish solid; MS m/z (M)+ 557.3; C30H27F3N8 requir. 557.4.

reactant | 5-{7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidin-5-yl}-2-(tert-butoxycarbonyl)-(1R)-2,5-diaza-bicyclo[2.2.1]heptane | 0.4 mmole, 240 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=C1)C1=C(C=2N(C(=N1)N1C3CN([C@@H](C1)C3)C(=O)OC(C)(C)C)C=NN2)C2=CC(=CC=C2)C(F)(F)F | C35H35F3N8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-8-(3-(trifluoromethyl)phenyl)-7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidine | C12N(CC(NC1)C2)C2=NC(=C(C=1N2C=NN1)C1=CC(=CC=C1)C(F)(F)F)C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1 | C30H27F3N8
